Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ HTN, DM2, bicuspid AV c/b AS s/p mechanical aortic valve on 
lovenox for mechanical valve complicated by bleeding from 
abdominal injection site yesterday, now off of lovenox for 36 
hours, who presented to the ED with 6 hours sudden onset L 
frontal headache, initially ___, but reported to be mild in ED; 
has had similar headaches in past but this is worse and now 
associated with episodes of emesis containing flecks of blood 4 
hours ago. In the ED he was not currently nauseated; denied 
black/bloody stools, denied numbness, weakness, difficulty 
walking/talking, vision changes.  
 While in the ED the patient developed substernal chest pain, 
lasting for minutes, now resolved; had V4-V6 twi while chest 
pain present; currently resolved.  
 In the ED, initial vitals: 98.8 77 150/53 16 98% RA.  
 - Exam notable for: not documented in ED dash.  
 - Labs notable for: normal wbc, mild anemia, normal 
chemistries, CSF with one wbc and one rbc. UA pending. Normal 
PTT, INR 1.3.  
 - Imaging notable for: relatively unremarkable CT head, CTA 
head and neck.  
 - Patient given: nothing.  
 - Neurosurgery was consulted, approved LP and recommended 
holding anticoagulation until the morning. Hematology was also 
consulted and recommended  
 - He was admitted for trops, starting hep in AM, monitoring for 
lower back pain/deficits, cardiac eval for EKG changes.  
 - Vitals prior to transfer: 71 136/82 18 98% RA.  
 Of note, he was recently discharged ___ after an admission 
for lower extremity swelling; he was treated for cellulitis. He 
also had a subtherapeutic INR and was bridged with lovenox.  
 On arrival to the floor, pt reports that his headache and 
nausea have resolved. He believes that his symptoms could have 
been consistent with a migraine. He has had migraines in the 
past, but notes that this headache was more severe. He had 
associated photophobia with the headache that has now resolved. 
He also states that his chest pain has resolved. He described it 
as a fleeting, sharp pulsatile sensation that he points to with 
one finger. It did not radiate and it did not feel 
pressure-like, was not associated with nausea or diaphoresis.  
 REVIEW OF SYSTEMS: a complete ROS was negative except as noted 
in HPI.  

 
Past Medical History:
 Aortic valve replacement ___ with mechanical valve (h/o  
 bicuspid AV and severe AS and ascending aortic aneurysm 5.6cm)  

 CAD (noted to have LAD disease in ___, unclear if  
 intervention)  
 DMII  
 HTN  
 Macular Degeneration  
 Arthritis  
 h/o LV dysfunction prior to AV surgery, resolved on repeat TTE
 
Social History:
___
Family History:
Father died from stroke, mother from diabetes complications. No 
hx of cancer.  
 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
 Vitals: 97.9PO 160 / 64L Lying 77 18 95 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur 
at LUSB, no rubs, gallops.  
 Abdomen: soft, distended, with puncture site (no erythema or 
induration)  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact.

DISCHARGE PHYSICAL EXAM
======================
 Vitals: 97.8 157/57 73 18 94%RA
 General: Alert, oriented, no acute distress  
 HEENT: Conjunctivae anicteric, MMM, oropharynx clear, neck 
supple, JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur 
at LUSB, no rubs, gallops.  
 Abdomen: mildly firm, distended, with puncture site (no 
erythema or induration) 
 Ext: Warm, well perfused, no cyanosis or edema. Chronic venous 
stasis changes.  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact. 
 
Pertinent Results:
ADMISSION LABS
=====================
___ 07:45PM BLOOD WBC-8.0 RBC-4.54* Hgb-11.5* Hct-36.6* 
MCV-81* MCH-25.3* MCHC-31.4* RDW-14.6 RDWSD-42.5 Plt ___
___ 07:45PM BLOOD Neuts-76.6* Lymphs-15.0* Monos-6.9 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-6.12*# AbsLymp-1.20 
AbsMono-0.55 AbsEos-0.05 AbsBaso-0.02
___ 07:45PM BLOOD ___ PTT-30.6 ___
___ 07:45PM BLOOD Glucose-250* UreaN-23* Creat-0.9 Na-134 
K-4.9 Cl-98 HCO3-24 AnGap-17
___ 07:55PM BLOOD Lactate-1.4
___ 12:21AM URINE Color-Straw Appear-Clear Sp ___
___ 12:21AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-100 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:21AM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 12:21AM URINE CastHy-1*

PERTINENT RESULTS
=====================
___ 12:10AM CEREBROSPINAL FLUID (CSF) WBC-1 RBC-1* Polys-0 
___ ___ 12:10AM CEREBROSPINAL FLUID (CSF) TotProt-50* 
Glucose-111
___ 03:45AM BLOOD ___ PTT-42.3* ___
___ 07:45PM BLOOD cTropnT-<0.01
___ 10:40AM BLOOD CK-MB-4 cTropnT-<0.01
___ 10:40AM BLOOD ALT-35 AST-34 LD(LDH)-352* AlkPhos-54 
TotBili-0.2

DISCHARGE LABS
=====================
___ 03:45AM BLOOD WBC-7.0 RBC-4.33* Hgb-11.8* Hct-35.5* 
MCV-82 MCH-27.3 MCHC-33.2 RDW-14.8 RDWSD-43.8 Plt ___
___ 03:45AM BLOOD Glucose-159* UreaN-21* Creat-0.9 Na-139 
K-4.6 Cl-102 HCO3-28 AnGap-14
___ 03:45AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.3

MICROBIOLOGY
=====================
URINE CULTURE (Final ___:    NO GROWTH.
 
___ 12:10 am CSF;SPINAL FLUID      #3. 
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

IMAGING
=====================
CTA HEAD/NECK:
 1. Linear hypodensity extending through the proximal ascending 
aorta with surrounding periaortic soft tissue thickening (5:8). 
In correlation with the provided coronal images, finding may 
represent a postoperative change or a web/ cleft within the 
aorta. However, possibility of an aortic dissection is not 
excluded. 
 2. Hypodensity within the right cerebellar hemisphere in the 
pons, similar to ___. Finding may be related to old 
infarction. However, if there is clinical concern for an acute 
infarction, MRI is a more sensitive means for further 
evaluation. No intracranial hemorrhage.  
 3. Otherwise, unremarkable CTA head and neck without stenosis, 
occlusion, aneurysm formation, or dissection. 
 4. Coronary artery calcifications. 

CTA CHEST: 
 1. Postoperative appearance of the ascending aorta after aortic 
valve replacement and ascending aortic reconstruction with 
Dacron graft. Irregularity of the proximal aortic ___ be 
postsurgical, correlate with surgical history or prior imaging. 
No evidence of native aortic dissection. 
 2. Cholelithiasis. 
 3. Incidental Indeterminate 1.4 cm left adrenal nodule. 
Recommend MRI or dedicated adrenal protocol CT for further 
evaluation if prior studies are not available for comparison to 
demonstrate stability. 0.2 cm left lung nodule, should be benign 
in the absence of history of smoking or malignancy. 2 small 
hepatic lesions, should be benign in the absence of history of 
malignancy or hepatic risk factors, cirrhosis. Cystic 
subcentimeter pancreatic lesions, likely side-branch IPMNs, 
according to guidelines, no further follow-up indicated. 
 
Brief Hospital Course:
 ___ with HTN, DM2, bicuspid AV c/b AS s/p mechanical aortic 
valve on warfarin for mechanical valve, possible h/o CAD, 
presenting with headache and vomiting, ED course complicated by 
chest pain.  

 # Headache with vomiting: patient had LP that was not 
suggestive of meningitis. His neuro imaging was negative for 
dissection, stroke or other acute process and only notable for 
mild atherosclerotic disease. Likely a migraine as it was 
short-lived and he does have a history of migraines. He was 
treated symptomatically with Tylenol. His headaches did not 
recur during admission.  

 # Chest Pain, likely stable angina: patient with brief chest 
pain that he describes as sharp pulsation but per report did 
have dynamic EKG changes. While his pain does not sound cardiac 
in nature and there was no troponin elevation, this could be on 
ACS spectrum (unstable angina) and may warrant stress testing vs 
cath given he is high risk. He has had this pain previously at 
home. Repeat EKG was obtained on the floor and did not show 
previously seen TWI in V4-V6. He was started on Metoprolol 
12.5mg daily for cardiac optimization; this should be increased 
as tolerated as an outpatient. He has an appointment with Dr. 
___ the week after discharge. His recurrent chest pain 
should continue to be evaluated as an outpatient.

 # Recent bleeding with subtherapeutic INR: patient is 
anticoagulated and had bleeding at ___ injection site 2 days 
prior to admission. AC has been on held since then, self 
discontinued by patient/family. Bleeding has stopped, H/H stable 
with subtherapeutic INR. Mechanical valves are high risk for 
embolic events. Lovenox 90mg SC BID, as well as Warfarin 5mg 
daily, were resumed on ___. These should be continued after 
discharge. Arrangements were made for him to be followed in the 
___ clinic. His goal INR is ___. INR prior to 
discharge: 1.4 (___). Coumadin dose 5mg daily upon 
discharge. 

 # Hematuria. Had approx. 4 episodes of gross hematuria ___. No 
recent Foley/instrumentation to explain this. Per pt, this is a 
new problem. This self-resolved without intervention. Continue 
to monitor for this as an outpatient. 
 
 # Diabetes, non-insulin dependent: Home oral agents were held 
on admission, he was maintained on sliding scale insulin. Oral 
agents resumed upon discharge.
 
 # HTN: Continued home antihypertensives, with addition of 
Metoprolol as above. 

 # CAD/ HLD: Continued home statin. 

TRANSITIONAL ISSUES:
=====================
-Coumadin dose 5mg on discharge 
-Lovenox 90 mg SC BID to continue until INR > 2 for goal INR ___
-patient must be bridged given mechanical valve
-metoprolol 12.5 mg daily started consider uptitration
-consider initiation of aspirin 81 mg once lovenox complete 
given history of coronary artery disease 
-INR on discharge: 1.4 (___)
-INR to be managed by ___ clinic
-Should have ___ lab draw ___ (INR). Fax results to ___ 
___ clinic at ___
-ongoing discussion of chest pain with cardiologist and if 
further work up is warranted
-work up of hematuria as an outpatient if persistent, though 
resolved prior to discharge.
-FYI, he has had graft repair of an ascending aortic aneurysm. 
This may give the appearance on imaging of an aortic dissection, 
but should not be confused with a dissection.
-Incidental imaging findings:
1. 1.4 cm left adrenal nodule. Consider MRI or multi phasic CT; 
or CT in 12 months for further evaluation of left adrenal nodule 
if prior studies are not available. 
2. 0.2 cm left lung nodule, should be benign in the absence of 
history of smoking or malignancy
3. 2 small hepatic lesions, should be benign in the absence of 
history of malignancy or hepatic risk factors
4. Cystic subcentimeter pancreatic lesions, likely side-branch 
IPMNs, according to guidelines, no further follow-up indicated. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
2. Warfarin 5 mg PO DAILY16 
3. amLODIPine 10 mg PO DAILY 
4. Enalapril Maleate 20 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. glimepiride 1 mg oral BID 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Potassium Chloride 20 mEq PO DAILY 
9. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Enoxaparin Sodium 90 mg SC BID 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 100 mg/mL 90 mg SC twice a day Disp #*20 Syringe 
Refills:*0 
2.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
once a day Disp #*15 Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Enalapril Maleate 20 mg PO DAILY  
5.  Furosemide 20 mg PO DAILY  
6.  glimepiride 1 mg oral BID  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
9.  Potassium Chloride 20 mEq PO DAILY  
10.  Simvastatin 20 mg PO QPM  
11.  Warfarin 5 mg PO DAILY16 
RX *warfarin 2.5 mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
=============
Migraine headache

SECONDARY
=============
Hematuria
Stable angina
Diabetes, non insulin dependent
Hypertension
Coronary artery disease
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
You were in the hospital because you had a headache, nausea, 
vomiting, and chest pain at home. 

What happened to me in the hospital?
We checked to ensure that you were not having a heart attack. We 
also started you on a new medicine called Metoprolol for your 
heart. Finally, we restarted your Lovenox and Coumadin. 

What should I do when I leave the hospital?
You should continue to take your Lovenox (twice per day) and 
Coumadin. We will arrange for visiting nurse services. We will 
also arrange for you to be followed by the ___ clinic at 
___, they will help adjust your dose of Coumadin as needed. 
Please do not stop lovenox until told so by your primary care 
doctor, ___, or the ___ clinic. 

Best wishes, 
Your ___ team
 
Followup Instructions:
___